US09339503B2
2-[4-(Morpholine-4-carbonyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one (“A20”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol) and piperazinocarboxylic acid morpholide (152.3 mg; 0.76 mmol) are reacted in isoamyl alcohol (1.5 ml) in accordance with the procedure for Example 1 (reaction time 8 h) and worked up. The crystals obtained are dissolved in acetonitrile and water and freeze-dried; yield: 38 mg (21%), crystals;

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | piperazinocarboxylic acid morpholide | 0.76 mmol, 152.3 mg | N1(CCNCC1)C(=O)N1CCOCC1 | C9H17N3O2
solvent | isoamyl alcohol | 1.5 ml | C(CC(C)C)O | C5H12O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[4-(Morpholine-4-carbonyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | N1(CCOCC1)C(=O)N1CCN(CC1)C1=NC=2CCCCC2C(N1)=O | C17H25N5O3
